US04199508
A. 1-Acetyl-2-(5-p-chlorophenyl-2-furoyl)hydrazine
A mixture of 111.5 g (0.5 mole) of 5-(p-chlorophenyl)furoic acid in 500 ml of thionyl chloride was heated at reflux for 1-11/4 hr. After slight cooling, the reaction mixture was filtered and the filtrate was concentrated in a water bath at reduced pressure to a creamy solid. The solid was dissolved in 400 ml of chloroform. To this chloroform solution under stirring at room temperature was added a suspension of 74 g (1 mole) of acetyl hydrazine in 900 ml of chloroform. Addition was completed in about 20 min. White creamy solid separated fairly readily while the temperature rose to about 45°. The mixture was allowed to stir at ambient temperature overnight.

reactant | 5-(p-chlorophenyl)furoic acid | 0.5 mole, 111.5 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7ClO3
reactant | acetyl hydrazine | 1 mole, 74 g | C(C)(=O)NN | C2H6N2O
solvent | thionyl chloride | 500 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 900 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Acetyl-2-(5-p-chlorophenyl-2-furoyl)hydrazine | C(C)(=O)NNC(=O)C=1OC(=CC1)C1=CC=C(C=C1)Cl | C13H11ClN2O3
